US05268389
1-Methylethyl 2-chloro-5-[(2,2-dimethyl-1-oxopropyl) amino]-4-fluorobenzoate (Compound 30)
A solution of trimethylacetyl chloride (2.53 g, 0.021 mole) and 1-methylethyl 5-amino-2-chloro-4-fluorobenzoate (4.62 g, 0.020 mole) in methyl ethyl ketone was stirred at room temperature for 16 hours and then refluxed for 2 hours. The solvent was removed and the residue triturated with diethyl ether to give a tan solid, m.p. 81°-83° C. (5.0 g, 79% yield).

reactant | trimethylacetyl chloride | 0.021 mole, 2.53 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 1-methylethyl 5-amino-2-chloro-4-fluorobenzoate | 0.020 mole, 4.62 g | NC=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C10H11ClFNO2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 1-Methylethyl 2-chloro-5-[(2,2-dimethyl-1-oxopropyl) amino]-4-fluorobenzoate | 79% yield | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(C(C)(C)C)=O | C15H19ClFNO3
